US04513002
200 g of 10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-malonic acid are heated to 180° while stirring for 30 minutes. After cooling to 120°, the residue is treated with about 1 l of benzene and heated to boiling while stirring and under reflux until all crystallized-out material has again dissolved. Subsequently, the mixture is treated with 500 ml of hexane, cooled to about 10° while stirring and while cooling with ice, left to stand in the cold overnight and subsequently the crystal slurry obtained is removed by filtration under suction. After washing with petroleum ether and drying at 50° in a vacuum drying oven, there is obtained 10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-acetic acid as beige crystals of melting point 163°-165°.

reactant | 10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-malonic acid | 200 g | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)C(C(=O)O)C(=O)O | C18H16O4
reactant | benzene | about 1 l | C1=CC=CC=C1 | C6H6
solvent | hexane | 500 ml | CCCCCC | C6H14
product | 10,11-dihydro-5H-dibenzo[a,d]cycloheptene-5-acetic acid | C1=CC=CC=2C(C3=C(CCC21)C=CC=C3)CC(=O)O | C17H16O2
